US06177440B1
A solution of phosphorus tribromide (2.1 mL, 6.0 g, 22.1 mM) in 30 mL of carbon tetrachloride was slowly added dropwise to solution of 2-benzylbenzyl alcohol (1.98 g, 10 mM) in 70 mL of carbon tetrachloride at 0° C. The mixture was stirred at 0° C. for 2 hours, then at room temperature for 2 hours. The solvent was removed in vacuo and the residue diluted with ethyl acetate and saturated aqueous sodium bicarbonate. The organic layer was washed with brine, dried over magnesium sulfate, filtered, and concentrated to afford 2.6 g (99%) of 2-benzylbenzyl bromide as a yellow solid. 1H NMR (DMSO-d6) δ 7.5-7.0 (m, 9H), 4.7 (s, 2H), and 4.15 (s, 2H). IR (CHCl3, cm−1) 3065, 1601, 1495, and 1453. MS (FD) m/e 260, 262.

reactant | phosphorus tribromide | 22.1 mM, 2.1 mL, 6.0 g | P(Br)(Br)Br | Br3P
reactant | 2-benzylbenzyl alcohol | 10 mM, 1.98 g | C(C1=CC=CC=C1)C1=C(CO)C=CC=C1 | C14H14O
solvent | carbon tetrachloride | 30 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 70 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-benzylbenzyl bromide | 2.6 g, 99% | C(C1=CC=CC=C1)C1=C(CBr)C=CC=C1 | C14H13Br
